US05804588
8-Methoxyquinoline-5-carboxylic acid
A of 3-amino-4-methoxybenzoic acid (5.0 g), glycerol (4.16 g), and iodine (135 mg) in concentrated sulphuric acid (5 ml) was heated at 180° C. for 2 hours. The reaction was allowed to cool, diluted with water (170 ml), made basic to pH8/9 with 0.88 ammonia and stirred with activated charcoal (2.0 g). The mixture was filtered through Celite and the filtrate acidified to pH4/5 with acetic acid. The precipitate was obtained by filtration and dried in a dessicator to yield the desired product (4.21 g) as a tan solid.

reactant | 3-amino-4-methoxybenzoic acid | 5.0 g | NC=1C=C(C(=O)O)C=CC1OC | C8H9NO3
reactant | glycerol | 4.16 g | OCC(O)CO | C3H8O3
reactant | ammonia | N | H3N
reactant | charcoal | 2.0 g | C | CH4
solvent | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 170 ml | O | H2O
catalyst | iodine | 135 mg | II | I2
product | 8-Methoxyquinoline-5-carboxylic acid | 4.21 g | COC1=CC=C(C=2C=CC=NC12)C(=O)O | C11H9NO3
